US09145429B2
To a solution of 2-bromo-5-hydroxybenzaldehyde (10 g, 49.75 mmol) and 3,4 dihydro-2H-pyran (4.96 mL, 54.7 mmol) in CH2Cl2 (35 mL) was added camphorsulfonic acid (230 mg, 0.99 mmol), and the mixture was stirred at room temperature for 21 h. The reaction mixture was then quenched with equal volumes of 0.2 M NaOH and EtOAc (1:1, 70 mL) before the layers were separated. The water phase was further extracted with equal volume of EtOAc before the organic layers were combined and dried over anhydrous Na2SO4 and filtered. The solvent was removed under reduced pressure. The residue was purified by silica gel column using Combiflash to give 2-bromo-5-(tetrahydro-2H-pyran-2-yloxy)benzaldehyde (2.22 g, 20%).

reactant | 2-bromo-5-hydroxybenzaldehyde | 49.75 mmol, 10 g | BrC1=C(C=O)C=C(C=C1)O | C7H5BrO2
reactant | 3,4 dihydro-2H-pyran | 54.7 mmol, 4.96 mL | O1CCCC=C1 | C5H8O
reactant | camphorsulfonic acid | 0.99 mmol, 230 mg | C12(C(=O)CC(CC1)C2(C)C)CS(=O)(=O)O | C10H16O4S
solvent | CH2Cl2 | 35 mL | C(Cl)Cl | CH2Cl2
product | 2-bromo-5-(tetrahydro-2H-pyran-2-yloxy)benzaldehyde | 2.22 g, 20% | BrC1=C(C=O)C=C(C=C1)OC1OCCCC1 | C12H13BrO3
